US08710076B2
A solution of 2-iodobenzoic acid (3.0 g, 12.09 mmol) in DMF was treated with 1,2,3-triazole (1.5 g, 21.7 mmol), Cs2CO3 (7.08 g, 21.7 mmol), CuI (114 mg, 0.60 mmol), and trans-N,N′-dimethylcyclohexane-1,2-diamine (310 mg, 2.17 mmol). The mixture was heated at 120° C. for 10 min in a microwave reactor. The reaction was cooled to room temperature, diluted with EtOAc, and filtered through Celite®. The residue was purified by gradient elution on SiO2 (0 to 10% MeOH/DCM with 0.1% AcOH) to provide the faster eluting title compound as a white solid. Data for D-1: 1H NMR (500 MHz, DMSO-d6) δ 13.05 (br s, 1H), 8.12 (s, 2H), 7.81-7.52 (m, 4H). The undesired 1-(2H-1,2,3-triazol-2-yl)benzoic acid (D-2) eluted second. 5-methyl-2-(2H-1,2,3-triazol-2-yl)benzoic acid (D-3) was prepared in an analogous manner.

reactant | 2-iodobenzoic acid | 12.09 mmol, 3.0 g | IC1=C(C(=O)O)C=CC=C1 | C7H5IO2
reactant | 1,2,3-triazole | 21.7 mmol, 1.5 g | N1N=NC=C1 | C2H3N3
reactant | Cs2CO3 | 21.7 mmol, 7.08 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 2.17 mmol, 310 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | CuI | 0.60 mmol, 114 mg | [Cu]I
product | 5-methyl-2-(2H-1,2,3-triazol-2-yl)benzoic acid | CC=1C=CC(=C(C(=O)O)C1)N1N=CC=N1 | C10H9N3O2
